US07439260B2
Step 3: 7-bromo-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one
To a solution of 7-bromo-4-(bromoacetyl)-2H-chromen-2-one (0.605 g, 1.7 mmol) in DMF was added thioacetamide (0.138 g, 1.8 mmol). The mixture was stirred 24 h at rt and at 100° C. overnight. Once cool to rt, it was partitioned between aqueous NH4Cl and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue swished in hexanes/Et2O to give the title compound.

reactant | 7-bromo-4-(bromoacetyl)-2H-chromen-2-one | 1.7 mmol, 0.605 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C(CBr)=O | C11H6Br2O3
reactant | thioacetamide | 1.8 mmol, 0.138 g | C(C)(=S)N | C2H5NS
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-bromo-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C13H8BrNO2S
